US07592456B2
Step 2: (1S)-1-(2-{[6-(5-Fluoropyridin-2-yl)-2-naphthyl]sulfonyl}phenyl}ethanol
A mixture of 2-bromo-5-fluoropyridine (38 mg, 0.22 mmol), (1S)-1-(2-{[6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]sulfonyl}phenyl)ethanol (96 mg, 0.22 mmol), palladium(II) acetate (2.6 mg, 11 μmol), tri(o-tolyl)phosphine (5.2 mg, 17 μmol) and sodium carbonate (51 mg, 0.48 mmol) in DME (2 mL) and water (0.3 mL) was degassed by bubbling nitrogen through for 5 minutes, then was heated at reflux under nitrogen for 3 hours. The slurry was filtered, and the filtrate was washed with saturated sodium hydrogen carbonate solution (10 mL), with saturated sodium chloride solution (10 mL), dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel, eluting with 40% ethyl acetate in isohexane, then further purified by preparative TLC on silica gel, eluting with 50% ethyl acetate in isohexane. The product was isolated as a colourless solid, which solidified upon trituration with isohexane (13 mg, 15%). 1H NMR (400 MHz, CDCl3): δ 8.61 (1H, d, J=2.7 Hz), 8.55 (1H, s), 8.48 (1H, s), 8.21 (2H, dd, J=8.7, 21.9 Hz), 8.06 (2H, dd, J=8.7, 22.5 Hz), 7.90 (1H, dd, J=4.1, 8.7 Hz), 7.77 (2H, d, J=7.6 Hz), 7.66 (1H, t, J=7.5 Hz), 7.57-7.49 (2H, m), 5.65 (1H, m), 2.48 (1H, s), 1.34 (3H, d, J=6.4 Hz). m/z (ES+) 408 [MH+].

reactant | 2-bromo-5-fluoropyridine | 0.22 mmol, 38 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | (1S)-1-(2-{[6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]sulfonyl}phenyl)ethanol | 0.22 mmol, 96 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O)C | C24H27BO5S
reactant | tri(o-tolyl)phosphine | 17 μmol, 5.2 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium carbonate | 0.48 mmol, 51 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | isohexane | 13 mg | CCCC(C)C | C6H14
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.3 mL | O | H2O
catalyst | palladium(II) acetate | 11 μmol, 2.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1S)-1-(2-{[6-(5-Fluoropyridin-2-yl)-2-naphthyl]sulfonyl}phenyl}ethanol | FC=1C=CC(=NC1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O | C23H18FNO3S
